Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
?post-ictal ?seizures ?change in neuro baseline ?imaging needed
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ female with a PMHx of TLE (followed
by ___ neurologist, reportedly R>L per prior EEGs), ___, and narcolpesy who presents as a transfer from ___ after generalized weakness (but ?L>R), fatigue,
diplopia, vertigo, gait instability, and "slowed" behavior. 

Woke up feeling normal. At 9am, she started having diplopia,
fatigue, and felt unable to walk. Horizontal diplopia Didn't try
to close either eye, not sure if up close or far away. Not sure
if worse with lateral or primary gaze (?worse to left). Has 
never
had diplopia before. Diplopia persisted until about 1pm, after
which she had blurry vision bilaterally. She also had
counterclockwise room-spinning vertigo and felt like she was on 
a
boat. She "felt drunk." The vertigo would last minutes at a 
time;
it was not positional or precipitated by head movements. The
above symptoms also persisted until about 1pm (while at
___.

After the onset of diplopia, she sat for an hour. When she tried
to get up, she would fall backwards because she felt off 
balance.
Husband helped her to the car, and she may have been listing to
right (she's not sure). Felt like she "had to remember to
breath." Husband took her to ___. Felt like she
"couldn't move" (although could move fingers and toes) including
head and limbs because "it was too hard." Per ___ notes,
she had apparent full strength with coaching. Initially 
described
whole body weakness but later said left side may have been worse
compared with right. Was told she looked pale. After an hour,
weakness improved (still not at baseline). "Everything was
tingling." "Couldn't keep up with what others were saying."
During this time, she denied HA but had posterior bilateral neck
pain more severe than prior pain and bilateral which is unusual
(prior neck pain had been unilateral). The pain felt achy. No
recent heavy lifting.

She went to her outpatient marriage counselor today, where she
reported generalized weakness, diplopia, and neck pain as above.
She has a witnessed fall without head strike wherein she went
down to her knees and then to her buttocks. Psychiatrist sent 
her
to ___. She had a tele-stroke with head CT done
(reportedly negative), and no intervention was done. Noted at
___ to be slightly drowsy. Patient notes that, while
there, she felt like she "[couldn't] keep up with visual
stimuli," which has improved but persisted. Her neurologist at
___ (Dr. ___ requested a neurology 
evaluation.
She was then transferred to ___ for neurology evaluation and
possible MRI. 

At the time of interview, her weakness and diplopia have
improved. She continues to feel  "woozy" and "slow". Denies F/C
or recent illnesses. No recent sleep deprivation. No missed or
extra doses of Lamictal. Has 1 beer the night prior to
presentation but none subsequently. No recent illicits or new
substances. 

TLE history: 
Diagnosed ___ years ago. Followed by neurologist Dr. ___ 
___
at ___. Treated with lamictal 300mg BID (last uptitration
6 months ago). Has not trialed any other AEDs. Semiology: 

1) Olfactory events (smells electrical fire) x 30 seconds
sometimes in clusters for up to 10 min, no shaking or LOC. Occur
once every two weeks
-->No recent change in frequency

2) Limb jerking: will have a single "jerk" of ___ limbs and no
subsequent movements. Arm, leg, or both. Sometimes right side 
and
sometimes left side. Can also have jerking of her abdomen or a
quick abnormal movement of her lips. Sometimes head or torso 
will
turn to right. Jerks can occur up to 10 times a day. Denies 
aura,
LOC, tongue biting, urinary incontinence, stool incontinence,
drooling, eye deviation, or post-ictal confusion. 
-->Had more jerks the last couple nights per husband. Felt like
she was about to jerk at ___ (felt restless). 

3) Six months ago, she had one episode of whole body shaking
lasting 10 seconds while sleeping witnessed by husband

On neuro ROS, the pt denies headache, loss of vision, 
dysarthria,
dysphagia, lightheadedness, tinnitus, and hearing difficulty.
Denies difficulties producing or comprehending speech.  Denies
numbness. No bowel or bladder incontinence or retention. 

On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation,
or abdominal pain.  No recent change in bowel or bladder habits.
No dysuria. Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Temporal lobe epilepsy
___
Narcolepy  
IBS                              

 
Social History:
___
Family History:
Her niece has a variant of uncertain significance
in the BRCA2 gene (patient tested and does not have this). heart
disease--dad. ___. Son with ___. Son has awake when 
dream
still happening. 
 
Physical Exam:
===============================================
ADMISSION PHYSICAL EXAMINATION
===============================================
Physical Exam:
Vitals: T: 98.4 P: 82 R: 16  BP: 121/76 SaO2: 97RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, No nuchal rigidity, +paraspinal TTP in neck, no
bony TTP, no meningismus
Pulmonary: breathing comfortably on RA
Cardiac: WWP
Abd: soft, NT/ND
Extremities: No C/C/E bilaterally

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension with very mild speech latency (takes a while to
answer or finish answer). Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
___, III, IV, VI:  PERRL 3 to 2mm and brisk. WIth left gaze, 
could
not abduct fully (crosses well past midline). Saw 1 finger "with
halo," which improved when either eye was covered. With right
gaze, could not adduct fully (crosses well past midline) with 2
beats of nystagmus. Saw 2 fingers when 1 shown with right gaze,
and this improved when either eye was covered. VFF to
confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No adventitious movements, such as tremor, noted.
No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   4+*    5    5  4+*    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5
*Limited by effort

-Sensory: No deficits to light touch. Decreased sensation to 
temp
on left (90% compared to right). Normal proprioception. No
extinction.

-DTRs: ___ brisk. +Suprapatellar. No crossed adductors or
pectoralis jerks. No jaw jerk. Toes down.

-Coordination: On FNF on left, she touched each target ___ times
but did not veer to one side. HKS normal. No dysdiadochokinesia. 


-Gait: Fell backward onto bed after standing up. Sway with eyes
open, could not attempt Romberg. Small, hesitant steps with gait
testing but did not list to one side. Unable to tandem (swaying
to both sides). 

============================================
Discharge examination: 
============================================
Unchanged from admission except as documented below: 

CN: 
EOMI, no nystagmus. PERRL 4->2.
Facial sensation intact to LT throughout.  
Facial activation symmetric. 
Weber test is symmetric. 
Palate elevates symmetrically. 
Tongue protrudes to midline and moves briskly to each side. 

Coordination: FTN without dysmetria. RAM are smooth and fast. 

Vestibular: 
Past pointing with eyes closed intermittently errs to the left, 
no errors noted to the right. 
___ testing with some forward motion but no lateral nor 
rotatory motion after one minute. 

Gait: 
Astasia without abasia with Romberg testing. Gait mildly 
wide-based. Able to heel, toe and tandem walk. 
 
Pertinent Results:
___ 06:50PM BLOOD WBC-9.5# RBC-4.57 Hgb-14.3 Hct-43.9 
MCV-96 MCH-31.3 MCHC-32.6 RDW-13.1 RDWSD-46.7* Plt ___
___ 05:50AM BLOOD WBC-6.7 RBC-4.46 Hgb-14.2 Hct-43.3 MCV-97 
MCH-31.8 MCHC-32.8 RDW-13.1 RDWSD-46.7* Plt ___
___ 06:50PM BLOOD Glucose-89 UreaN-7 Creat-0.9 Na-139 K-4.0 
Cl-103 HCO3-23 AnGap-17
___ 05:50AM BLOOD Glucose-83 UreaN-9 Creat-0.9 Na-140 K-4.1 
Cl-103 HCO3-24 AnGap-17
___ 06:50PM BLOOD ALT-17 AST-17 AlkPhos-61 TotBili-0.5
___ 06:50PM BLOOD Lipase-24
___ 06:50PM BLOOD cTropnT-<0.01
___ 03:30PM BLOOD %HbA1c-4.8 eAG-91
___ 05:05AM BLOOD Triglyc-98 HDL-89 CHOL/HD-2.4 LDLcalc-106
___ 03:30PM BLOOD TSH-2.4
___ 05:50AM BLOOD ___
___ 06:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG
___ 03:30PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
___ 03:30PM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND
___ 09:14PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 09:14PM URINE UCG-NEGATIVE
___ 09:14PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

Imaging: 
Non-Contrast CT of Head (___): no acute intracranial
abnormalities on my review

CXR: 
No acute cardiopulmonary process. 
Likely external structure mimicking pleural reflection line at 
the left lung apex for which repeat exam in expiration is 
suggested to exclude pneumothorax. 

CTA: 1. No acute intracranial abnormality. 
2. Patent intracranial vascular without significant stenosis, 
occlusion, or aneurysm. 
3. Patent cervical vasculature without significant stenosis, 
occlusion, or 
dissection. 

TTE ___: Two bubbles seen in the left heart at rest not 
replicated with maneuvers. This is suggestive of a small 
intrapulmonary shunt but PFO cannot be excluded and if there is 
high suspicion for an embolic CVA, TEE with aggitated saline can 
help to clarify.  

TEE ___: No atrial septal defect or patent foramen ovale by 
color doppler or saline contrast.  

DVT u/s BLE: No evidence of deep venous thrombosis in the right 
or left lower extremity veins. 

 
Brief Hospital Course:
Ms. ___ was admitted with acute onset of diplopia, gait 
instability and neck ache. Exam showed a left internuclear 
ophthalmoplegia and left cranial nerve six palsy as well as gait 
instability with some elements of functional overlay. The eye 
movement abnormalities resolved by the morning of ___, and 
the gait difficulty resolved hours thereafter. It is unclear 
whether this episode is related to TIA vs basilar migraine, a 
less likely, though possible, alternative explanation is 
MRI-negative stroke, as the expected stroke size in the 
brainstem would be expected to be quite small, and likely in the 
L pons. We completed workup for TIA, which showed 
hyperlipidemia, and atorvastatin 40 mg qhs was started. Echo 
showed possible PFO, but TEE proved absence of PFO. 
Hypercoagulability studies pending and 30 day heart rhythm 
monitor was hooked up on discharge. She was started on ASA 81 
and atorvastatin 40 mg daily. She will follow up with her 
outpatient Neurologist. 

====================================
Transitional Issues: 
[ ] LDL goal <70

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. LamoTRIgine 300 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
3.  Citalopram 40 mg PO DAILY  
4.  LamoTRIgine 300 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
You were hospitalized due to symptoms of double vision and 
imbalance resulting from an TRANSIENT ISCHEMIC ATTACK, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is temporarily blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  
TIA can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
The surface ultrasound of your heart showed some possibility 
that you might have a persistent connection between the left and 
right sides of the heart. To find out for sure, we did an 
ultrasound through your throat, called a "TEE" or 
"Transesophageal echocardiogram", which proved that you do NOT 
have an abnormal connection between the right and left sides of 
your heart. In order to prevent future strokes, we plan to 
modify those risk factors. Your risk factors are: 
High cholesterol 
  
We are changing your medications as follows:  
Start taking a baby aspirin (81 mg) daily
start taking a cholesterol medicine. 
  
Please take your other medications as prescribed.  
Please follow-up with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body 

Sincerely, 
Your ___ Neurology Team
 
Followup Instructions:
___